US04914112
To oxalylchloride (1.22 g, 9.61 mmol) in tetrahydrofuran (20 ml) was added dropwise 4-(1-(2-fluoro-4-biphenylyl)ethyl)-2-methylthiazole (1.00 g, 3.20 mmol) in tetrahydrofuran (10 ml). After the addition, the mixture was stirred for 1 h at room temperature, then to the mixture was added dropwise di-n-butylamine (4.14 g, 32.0 mmol) in pyridine (5 ml) under cooling. After the addition, the mixture was stirred for 1 h at room temperature and extracted with ethyl acetate. The extracts were washed with water, dried over and evaporated under reduced pressure to a residue, which was chromatographed to afford N',N'-di-n-butyl-N-methyl-N-(4-(1-(2-fluoro-4-biphenylyl)ethyl)thiazole-2-yl)oxamide (142 mg, 9% yield) as oily substance: NMR(CDCl3) δ 0.89(t, 3H), 0.97(t, 3H), 1.23-1.45(m, 4H), 1.55-1.70 (m, 9H), 3.21(t, 2H), 3.45(t, 3H), 3.63(s, 3H), 4.25(q, 1H), 6.70(s, 1H), 7.08-7.55(m, 8H)ppm; IR(neat) 2950, 1740, 1640, 1480, 1430, 1290, 1100 cm-1.

reactant | oxalylchloride | 9.61 mmol, 1.22 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(1-(2-fluoro-4-biphenylyl)ethyl)-2-methylthiazole | 3.20 mmol, 1.00 g | FC1=C(C=CC(=C1)C(C)C=1N=C(SC1)C)C1=CC=CC=C1 | C18H16FNS
reactant | di-n-butylamine | 32.0 mmol, 4.14 g | C(CCC)NCCCC | C8H19N
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N',N'-di-n-butyl-N-methyl-N-(4-(1-(2-fluoro-4-biphenylyl)ethyl)thiazole-2-yl)oxamide | 142 mg, 9% yield | C(CCC)N(C(C(N(C=1SC=C(N1)C(C)C1=CC(=C(C=C1)C1=CC=CC=C1)F)C)=O)=O)CCCC | C28H34FN3O2S
